US07259175B2
[2-(3,5-Bis-trifluoromethyl-phenyl)-4-methyl-thiazol-5-yl]-methanol (0.460 g, 1.35 mmol), is dissolved in anhydrous dichloromethane (6 mL) and cooled to 0° C. with stirring under nitrogen. Triethyl amine (0.350 mL, 2.60 mmol) and methane sulfonyl chloride (0.200 mL, 2.0 mmol) are added and the reaction is monitored by TLC. After the starting material is completely consumed, the reaction is diluted with dichloromethane and extracted against saturated sodium bicarbonate solution. The two phases are separated and the organic layer is washed with water and brine, dried over sodium sulfate, then concentrated. The residue is further purified using flash column chromatography. The 2-(3,5-Bis-trifluoromethyl-phenyl)-5-chloromethyl-4-methyl-thiazole is formed quantitatively and used without further purification.

reactant | [2-(3,5-Bis-trifluoromethyl-phenyl)-4-methyl-thiazol-5-yl]-methanol | 1.35 mmol, 0.460 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C=1SC(=C(N1)C)CO)(F)F | C13H9F6NOS
reactant | Triethyl amine | 2.60 mmol, 0.350 mL | C(C)N(CC)CC | C6H15N
reactant | methane sulfonyl chloride | 2.0 mmol, 0.200 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | 2-(3,5-Bis-trifluoromethyl-phenyl)-5-chloromethyl-4-methyl-thiazole | FC(C=1C=C(C=C(C1)C(F)(F)F)C=1SC(=C(N1)C)CCl)(F)F | C13H8ClF6NS
